US07968573B2
To a mixture of 0.34 g of 2-amino-4-chloro-3-methylbenzoic acid and 10 ml of N,N-dimethylformamide was added 0.26 g of N-chlorosuccinimide at room temperature, and the mixture was stirred at room temperature for 5 hours. After 30 ml of water was poured into the reaction mixture, the mixture was extracted with ethyl acetate three times. The organic layers were combined, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to obtain 0.22 g of 2-amino-4,5-dichloro-3-methylbenzoic acid of the formula:

reactant | 2-amino-4-chloro-3-methylbenzoic acid | 0.34 g | NC1=C(C(=O)O)C=CC(=C1C)Cl | C8H8ClNO2
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | N-chlorosuccinimide | 0.26 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | water | 30 ml | O | H2O
product | 2-amino-4,5-dichloro-3-methylbenzoic acid | 0.22 g | NC1=C(C(=O)O)C=C(C(=C1C)Cl)Cl | C8H7Cl2NO2
